US05519007
N-(N'-ACETYLGLYCYL) SPHINGOSINE
5.0 gr of sphingosine (16.70 mM), prepared according to Example 4, 2.1 gr of N-acetylglycine (18.37 mM) and 3.8 gr of dicyclohexylcarbodiimide (18.40 mM) are left to react in 150 cc of chloroform, under warm conditions overnight. The reaction mixture is placed in a freezer to precipitate. The urea is filtered, and the chloroform solution is washed with H2O. The raw material is purified by chromatography using a mixture of CH2Cl2 /ethyl acetate/CH3OH, 70:30:10 v/v/v.

reactant | sphingosine | 16.70 mM, 5.0 gr | OC[C@H](N)[C@H](O)\C=C\CCCCCCCCCCCCC | C18H37NO2
reactant | N-acetylglycine | 18.37 mM, 2.1 gr | C(C)(=O)NCC(=O)O | C4H7NO3
reactant | dicyclohexylcarbodiimide | 18.40 mM, 3.8 gr | C1(CCCCC1)N=C=NC1CCCCC1 | C13H22N2
solvent | chloroform | 150 cc | C(Cl)(Cl)Cl | CHCl3
product | N-(N'-ACETYLGLYCYL) SPHINGOSINE | C(C)(=O)NCC(=O)N[C@@H](CO)[C@H](O)\C=C\CCCCCCCCCCCCC | C22H42N2O4
